US07569579B2
Preparation 24B: 1,1-dimethylethyl [2-((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)ethyl]carbamate
To a solution of [2-((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)ethyl]amine (5.1 g, 18.12 mmol, 1 eq), accessed via the method of 23B, and triethylamine (2.78 mL, 19.03 mmol, 1.1 eq) in 75 mL DCM cooled to 0° C. was added di(tert-butyl) dicarbonate (4.15 g, 19.03 mmol, 1.05 eq). The resultant mixture was stirred 2 h at 0° C. followed by 16 h at ambient temperature. The reaction mixture was diluted with DCM, washed successively with saturated NaHCO3 and brine, dried over MgSO4, filtered and concentrated down. The crude material was purified by flash chromatography (SiO2, eluted successively with hexanes and EtOAc/hexanes (1:4)) to give the title product (5.9 g, 15.46 mmol, 85%) as a clear oil. 1H NMR (400 MHz, DMSO-d6) δ 7.29-7.17 (m, 10H), 6.60-6.58 (m, 1H), 4.29-4.16 (m, 2H), 3.01-2.97 (m, 1H), 2.91-2.87 (m, 1H), 2.83-2.77 (m, 1H), 2.71-2.66 (m, 1H), 1.91-1.85 (m, 1H), 1.33-1.21 (m, 11H), 0.83-0.80 (m, 1H), 0.74-0.72 (m, 1H). ES-LCMS m/z 404.2 (M+Na).

reactant | [2-((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)ethyl]amine | 18.12 mmol, 5.1 g, 1 eq | C1(=CC=CC=C1)[C@@]1([C@@H](C1)COCC1=CC=CC=C1)CCN | C19H23NO
reactant | triethylamine | 19.03 mmol, 2.78 mL, 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | di(tert-butyl) dicarbonate | 19.03 mmol, 4.15 g, 1.05 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl [2-((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)ethyl]carbamate | 15.46 mmol, 5.9 g, 85% | C1(=CC=CC=C1)[C@@]1([C@@H](C1)COCC1=CC=CC=C1)CCNC(OC(C)(C)C)=O | C24H31NO3
